US07105503B2
Preparation of 4-(quinolin-6-ylhydrazono)-4H-pyrazole-3,5-diamine
4-(Quinolin-6-ylhydrazono)-4H-pyrazole-3,5-diamine was prepared using 2-(quinolin-6-ylhydrazono)malononitrile (0.11 g, 0.5 mmol) which was derived from 6-aminoquinoline (0.144 g, 1.0 mmol) and malononitrile (1.5 mmol) in a manner similar to that described in Example 2, and hydrazine hydrate. The resulting solid was isolated by filtration and purified by flash chromatography to yield 0.025 g (20%) of the title compound as an orange solid; 1H NMR (ppm, 200 MHz, DMSO-d6) δ 5.95 (br s, 2H), 6.45 (br s, 2H), 7.40–7.55 (m, 1H), 7.98 (d, 1H), 8.10 (s, 1H), 8.20–8.40 (m, 2H), 8.79 (d, 1H), 10.35 (br s, 1H).

reactant | 2-(quinolin-6-ylhydrazono)malononitrile | 0.5 mmol, 0.11 g | N1=CC=CC2=CC(=CC=C12)NN=C(C#N)C#N | C12H7N5
reactant | 6-aminoquinoline | 1.0 mmol, 0.144 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-(quinolin-6-ylhydrazono)-4H-pyrazole-3,5-diamine | 0.025 g, 20% | N1=CC=CC2=CC(=CC=C12)NN=C1C(=NN=C1N)N | C12H11N7
